2165-01-15 06:26:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: GI bleed
   24 Hour Events:
   Tachycardia improved to 110s with pRBCs and IVF, but HCT continued to
   drop despite ongoing transfusions. He also continued to have large
   amounts of maroon liquid stool. NGT placement was planned but refused
   by the patient. No additional peripheral access was able to be
   obtained.
   Given his evidence of ongoing bleeding, GI was consulted and advised a
   PPI gtt, IV fluid, blood products, and intubation prior to any
   endoscopy. Pt was intubated at 1:30AM, and then central access was
   attempted at both IJ's prior to being achieved at the right femoral
   vein. OG lavage returned copious amounts of RB and clot. Surgery was
   consulted in case of progressive hemorrhage.
   The patient received a total of 4 units pRBCs overnight, without
   appropriate bump, as well as 2 units of FFP. GI is to perform endoscopy
   this AM.
 INVASIVE VENTILATION - START [**2165-1-15**] 01:30 AM
   Ventilation started @ 0130, [**2165-1-15**]
 MULTI LUMEN - START [**2165-1-15**] 05:13 AM
 ARTERIAL LINE - START [**2165-1-15**] 06:00 AM
 ENDOSCOPY - At [**2165-1-15**] 06:02 AM
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Erythromycin - [**2165-1-15**] 05:18 AM
   Infusions:
   Fentanyl - 100 mcg/hour
   Midazolam (Versed) - 4 mg/hour
   Pantoprazole (Protonix) - 8 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2165-1-15**] 06:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 35.7
C (96.2
   HR: 82 (73 - 144) bpm
   BP: 125/59(80) {125/59(80) - 125/59(80)} mmHg
   RR: 16 (12 - 25) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 21 (18 - 21)mmHg
   Total In:
                                                                  2,673 mL
                                                                  1,383 mL
   PO:
   TF:
   IVF:
                                                                  2,087 mL
                                                                    264 mL
   Blood products:
                                                                    586 mL
                                                                  1,119 mL
   Total out:
                                                                  6,000 mL
                                                                    500 mL
   Urine:
                                                                    500 mL
   NG:
   Stool:
                                                                  6,000 mL
   Drains:
   Balance:
                                                                 -3,327 mL
                                                                    883 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 100%
   RSBI Deferred: FiO2 > 60%
   PIP: 24 cmH2O
   SpO2: 100%
   ABG: ///25/
   Ve: 10 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   410 K/uL
   9.9 g/dL
   138 mg/dL
   0.3 mg/dL
   25 mEq/L
   3.0 mEq/L
   29 mg/dL
   121 mEq/L
   153 mEq/L
   27.2 %
   25.5 K/uL
        [image002.jpg]
                             [**2165-1-14**]  08:26 PM
                             [**2165-1-15**]  02:12 AM
                             [**2165-1-15**]  03:59 AM
   WBC
   25.5
   Hct
   23.8
   23.4
   27.2
   Plt
   410
   Cr
   0.3
   Glucose
   138
   Other labs: PT / PTT / INR:14.8/29.2/1.3, Fibrinogen:186 mg/dL,
   Ca++:6.6 mg/dL, Mg++:2.2 mg/dL, PO4:3.9 mg/dL
   EGD:
   3 large antral stress ulcers, one  with stigmata of recent bleeding.
   Multiple smaller stress ulcers. Epinephrine injected around large
   ulcers.
   Assessment and Plan
   30 yo M with [**Doctor Last Name **] muscular dystrophy presented who with bilateral
   femur fractures, hospital course c/b HAP, who was transferred to the
   MICU for acute UGIB. , found to have multiple stress ulcers with
   stigmata of recent bleeding.
   .
   # GIB
 due to UGI source, stress ulcers.
   -- appreciate GI involvement, f/u recs
   -- continue to check q6h HCTs
   -- continue PPI gtt
   -- advance to clears when extubated
   -- consider obtaining additional access
   -- maintain active T+C
   -- appreciate surgical consult, hopefully able to be controlled with
   GI
s intervention.
   .
   # Respiratory Failure
 not a true gas exchange problem
 pt was
   intubated as he was considered to be high risk for an endoscopy.
   - after EGD, plan to wean sedation, run on PSV 5/5 and extubate
   - if no plan for extubation, replace OG tube
   # Leukocytosis
 most likely a stress reaction, as he is afebrile
   -- panculture (urine, stool, blood, CXR)
   -- trend daily
   # Hypernatremia
 due to excessive repletion with IV NS
   -          once extubated, will give access to free water, should trend
   downwards
   -          trend Na
   # Diarrhea - likely [**2-11**] cathartic effect of blood in GI tract.
   -- hold bowel regimen
   -- C Diff neg x 1, will repeat
   -- continue flagyl until ruled out
   .
   # Chronic Pain Control: Due to underlying muscular dystrophy, on
   chronic narcotics. Exacerbated by recent surgery.
   -- hold dilaudid PCA while intubated/sedated
   -- once extubated, resume usual pain meds, no NSAIDs
   .
   # Beckers Musc Dystrophy
   -- Continue Baclofen 10 tid
   .
   # Bilateral Hip Fracture: s/p fixation on [**2165-1-3**].
   -- f/u ortho recs
   -- pboots instead of lovenox
   -- Pain control
   -- calcium and vitamin D given likely osteopenia.
   .
   # Psych
   -- Continue Escitalopram
   -- Continue Risperdone
   -- Coninue Clonazepam 0.5 mg tid
   .
   # h/o Seizure d/o
   -- Continue Lamotrigine 100 mg [**Hospital1 **]
   .
   # HAP
   -- s/p 7 day tx with vanc/zosyn/azithro
   .
   # PROPHY:
   -- pboots, hold bowel regimen given recent diarrhea, PPI gtt
   .
   # FEN
   -- NPO then clears x 24 hours after extubation
   -- aggressive IVF
   .
   # ACCESS
   -- PICC, 1 PIV 20g, R fem TLC, R radial A-line
   .
   # FULL CODE
   Communication: (Aunt) [**Telephone/Fax (1) 3588**]
   Father [**Name (NI) **] [**Telephone/Fax (1) 3804**]
   .
   # DISPO - ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2165-1-14**] 03:26 PM
   20 Gauge - [**2165-1-14**] 03:27 PM
   Multi Lumen - [**2165-1-15**] 05:13 AM
   Arterial Line - [**2165-1-15**] 06:00 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2165-01-15 09:06:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Developed more rectal bleeding overnight, HCT declined from 25-23  and
   remained at 23 despite 1 u PRBC's.  3 additional units of PRBC
   subsequently given.  Also received 3L of NS.
   Had femoral TLC placed for additional access.
   Intubated at the request of GI to perform EGD.  OGT revealed copious
   clots.
   GI performed EGD this AM--> multiple gastric ulcers with stigmata of
   recent bleeding-->injected.
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Erythromycin - [**2165-1-15**] 05:18 AM
   Infusions:
   Fentanyl - 25 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Pantoprazole (Protonix) - 8 mg/hour
   Other ICU medications:
   Other medications:
   Erythromycin x 1, MVI, risperdal, Escitalopram, lamictal, Klonpin,
   Baclofen, Provigil, Bisacodyl (held), amitriptyline, Vit D, lyrica,
   tylenol, Flagyl
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2165-1-15**] 09:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37.4
C (99.4
   HR: 84 (73 - 144) bpm
   BP: 120/57(77) {120/57(77) - 127/63(85)} mmHg
   RR: 16 (12 - 25) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   CVP: 16 (16 - 21)mmHg
   Total In:
                                                                  2,673 mL
                                                                  1,804 mL
   PO:
   TF:
   IVF:
                                                                  2,087 mL
                                                                    500 mL
   Blood products:
                                                                    586 mL
                                                                  1,304 mL
   Total out:
                                                                  6,000 mL
                                                                    580 mL
   Urine:
                                                                    580 mL
   NG:
   Stool:
                                                                  6,000 mL
   Drains:
   Balance:
                                                                 -3,327 mL
                                                                  1,224 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 7
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 100%
   RSBI Deferred: FiO2 > 60%
   PIP: 24 cmH2O
   SpO2: 100%
   ABG: ///25/
   Ve: 10 L/min
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : ventilated BS)
   Abdominal: Soft, Bowel sounds present, Obese
   Extremities: Right: 3+, Left: 3+
   Skin:  Not assessed, No(t) Rash:
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   9.9 g/dL
   410 K/uL
   138 mg/dL
   0.3 mg/dL
   25 mEq/L
   3.0 mEq/L
   29 mg/dL
   121 mEq/L
   153 mEq/L
   27.2 %
   25.5 K/uL
        [image002.jpg]
                             [**2165-1-14**]  08:26 PM
                             [**2165-1-15**]  02:12 AM
                             [**2165-1-15**]  03:59 AM
   WBC
   25.5
   Hct
   23.8
   23.4
   27.2
   Plt
   410
   Cr
   0.3
   Glucose
   138
   Other labs: PT / PTT / INR:14.8/29.2/1.3, Fibrinogen:186 mg/dL,
   Ca++:6.6 mg/dL, Mg++:2.2 mg/dL, PO4:3.9 mg/dL
   Imaging: CXR:  Low lung volumes.  ETT at entrance to R MS.  [**Name13 (STitle) **]
   infiltrates.
   Microbiology: BCx:  pending
   UCx: pending
   C diff x 1
   Assessment and Plan
   30 yo M with [**Name8 (MD) 3587**] MD originally admitted for fall with b/l femur
   fracture. Hospital course complicated by perioperative PNA and now
   UGIB.
   GIB:  BP remains stable, tachycardia improved.  Ulcers injected with
   epi this AM.
     -No apparent plans for repeat-EGD
     -Continue IV PPI
     -Hold NSAIDS, anticoagulants
     -Serial HCT checks and transfuse to keep above 27 given active
   bleeding
   Respiratory: Intubated for airway protection.
     -SBT this AM once sedation lightened, if passes-->extubate
    Leukocytosis:  Likely stress reaction to GIB.  Was started on flagyl
   empirically yesterday.  Suspicion for c diff low and is negative x 1.
     -D/C flagyl
     -F/u cultures
   FEN:  Hypernatremic/hyperchloremic today
      -D5W IV x 1 L.  Check PM lytes.
   Chronic pain:  Appreciate pain service assistance
     -Wean basal rate on PCA after extubation.
   Hip fractures:  Pain control as above, further plans per ortho.
   Access: PIV, single lumen PICC, and femoral TLC.  Once bleeding is
   clearly stable, will pull femoral line.
   Rest of plan per resident note.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2165-1-14**] 03:26 PM
   20 Gauge - [**2165-1-14**] 03:27 PM
   Multi Lumen - [**2165-1-15**] 05:13 AM
   Arterial Line - [**2165-1-15**] 06:00 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2165-01-16 08:07:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   -- extubated on am rounds
   -- was still very sleepy (though easily arousable) during the day
   -- Hct dropped to 25.7 from 28.2 on 10 pm draw; had another maroon
   colored stool; HD stable; transfused 1 unit RBC
   -- was on dilaudid PCA; wasn't taking PO's overnight b/c was refusing
   This AM, refusing exam, angry, wants to leave
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Erythromycin - [**2165-1-15**] 05:18 AM
   Metronidazole - [**2165-1-15**] 09:00 AM
   Infusions:
   Hydromorphone (Dilaudid) - 0.25 mg/hour
   Pantoprazole (Protonix) - 8 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2165-1-16**] 08:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.4
C (97.6
   HR: 95 (91 - 117) bpm
   BP: 132/68(86) {101/55(69) - 145/80(103)} mmHg
   RR: 17 (15 - 27) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 23 (17 - 361)mmHg
   Total In:
                                                                  3,582 mL
                                                                  1,106 mL
   PO:
   TF:
   IVF:
                                                                  2,278 mL
                                                                    756 mL
   Blood products:
                                                                  1,304 mL
                                                                    350 mL
   Total out:
                                                                  1,755 mL
                                                                    710 mL
   Urine:
                                                                  1,455 mL
                                                                    710 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,827 mL
                                                                    396 mL
   Respiratory support
   O2 Delivery Device: None
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   PS : 5 cmH2O
   RR (Set): 7
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 32
   PIP: 24 cmH2O
   Plateau: 14 cmH2O
   SpO2: 97%
   ABG: ///27/
   Ve: 8.5 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   318 K/uL
   10.4 g/dL
   79 mg/dL
   0.2 mg/dL
   27 mEq/L
   3.4 mEq/L
   32 mg/dL
   120 mEq/L
   152 mEq/L
   28.4 %
   19.6 K/uL
        [image002.jpg]
                             [**2165-1-14**]  08:26 PM
                             [**2165-1-15**]  02:12 AM
                             [**2165-1-15**]  03:59 AM
                             [**2165-1-15**]  09:09 AM
                             [**2165-1-15**]  03:42 PM
                             [**2165-1-15**]  10:20 PM
                             [**2165-1-16**]  05:00 AM
   WBC
   25.5
   19.6
   Hct
   23.8
   23.4
   27.2
   29.9
   28.2
   25.7
   28.4
   Plt
   410
   318
   Cr
   0.3
   0.2
   0.2
   Glucose
   138
   82
   79
   Other labs: PT / PTT / INR:13.5/28.0/1.2, Fibrinogen:186 mg/dL,
   Ca++:7.5 mg/dL, Mg++:2.1 mg/dL, PO4:2.3 mg/dL
   Imaging: none new today
   Microbiology: [**1-15**] sputum:
   GRAM STAIN (Final [**2165-1-15**]):
         >25 PMNs and <10 epithelial cells/100X field.
         NO MICROORGANISMS SEEN.
      RESPIRATORY CULTURE (Preliminary):
   [**1-15**] BCx: NGTD
   [**1-15**] UCx: negative
   [**1-15**] Cdiff (2nd): negative
   Assessment and Plan
   30 yo M with [**Doctor Last Name **] muscular dystrophy presented who with bilateral
   femur fractures, hospital course c/b HAP, who was transferred to the
   MICU for acute UGIB. , found to have multiple stress ulcers with
   stigmata of recent bleeding.
   .
   # GIB
 due to UGI source, stress ulcers.
   -- appreciate GI involvement, f/u recs
   -- [**Hospital1 **] HCT
   -- bumped approp to 1 unit overnight
   -- change to PPI IV BID
   -- advance to clears
   -- maintain active T+C
   .
   # Leukocytosis
 resolving, was most likely a stress reaction, as he is
   afebrile
   -- f/u panculture
   -- cdiff negative x 2
   -- trend daily
   # Hypernatremia
 due to excessive repletion with IV NS
   -          1 L d5W today
   -          trend Na [**Hospital1 **]
   # Chronic Pain Control: Due to underlying muscular dystrophy, on
   chronic narcotics. Exacerbated by recent surgery.
   -- dilaudid PCA  until taking po
   -- once tolerating po, continue taper per pain service resume usual
   pain meds
   -- no NSAIDs
   # Beckers Musc Dystrophy
   -- Continue Baclofen 10 tid
   .
   # Bilateral Hip Fracture: s/p fixation on [**2165-1-3**].
   -- f/u ortho recs
   -- pboots instead of lovenox
   -- Pain control
   -- calcium and vitamin D given likely osteopenia.
   .
   # Psych  - consider consult given mood
   -- Continue Escitalopram
   -- Continue Risperdone
   -- Coninue Clonazepam 0.5 mg tid
   .
   # h/o Seizure d/o
   -- Continue Lamotrigine 100 mg [**Hospital1 **]
   .
   # HAP
   -- s/p 7 day tx with vanc/zosyn/azithro
   .
   # PROPHY:
   -- pboots, hold bowel regimen given recent diarrhea, PPI gtt
   .
   # FEN
   -- advance diet to clearsNPO then clears x 24 hours after extubation
   -- aggressive IVF
   .
   # ACCESS
   -- PICC, 1 PIV 20g, R fem TLC, R radial A-line
   .
   # FULL CODE
   Communication: (Aunt) [**Telephone/Fax (1) 3588**]
   Father [**Name (NI) **] [**Telephone/Fax (1) 3804**]
   .
   # DISPO
 call out
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2165-1-14**] 03:26 PM
   20 Gauge - [**2165-1-14**] 03:27 PM
   Multi Lumen - [**2165-1-15**] 05:13 AM
   Arterial Line - [**2165-1-15**] 06:00 AM
   Prophylaxis:
   DVT: boots
   Stress ulcer:  PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status:  full
   Disposition: call out

2165-01-16 10:16:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
   Extubated successfully yesterday.
   HCT down from 28 to 25 overnight, bumped appropriately to 1 unit PRBC.
   Cont frequent stools.  Dislikes being turned for cleaning.
   History obtained from Patient
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Erythromycin - [**2165-1-15**] 05:18 AM
   Metronidazole - [**2165-1-15**] 09:00 AM
   Infusions:
   Hydromorphone (Dilaudid) - 0.25 mg/hour
   Other ICU medications:
   Other medications:
   MVI, Risperdal, lexapro, lamictal, klonipin, baclofen, provigil, lyrica
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2165-1-16**] 10:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.4
C (97.6
   HR: 95 (91 - 117) bpm
   BP: 132/68(86) {101/55(69) - 136/73(93)} mmHg
   RR: 17 (15 - 27) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   CVP: 23 (17 - 361)mmHg
   Total In:
                                                                  3,582 mL
                                                                  1,161 mL
   PO:
   TF:
   IVF:
                                                                  2,278 mL
                                                                    811 mL
   Blood products:
                                                                  1,304 mL
                                                                    350 mL
   Total out:
                                                                  1,755 mL
                                                                    710 mL
   Urine:
                                                                  1,455 mL
                                                                    710 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,827 mL
                                                                    451 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///27/
   Physical Examination
   General Appearance: Refusing exam
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Extremities: Right: 2+, Left: 2+
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   10.4 g/dL
   318 K/uL
   79 mg/dL
   0.2 mg/dL
   27 mEq/L
   3.4 mEq/L
   32 mg/dL
   120 mEq/L
   152 mEq/L
   28.4 %
   19.6 K/uL
        [image002.jpg]
                             [**2165-1-14**]  08:26 PM
                             [**2165-1-15**]  02:12 AM
                             [**2165-1-15**]  03:59 AM
                             [**2165-1-15**]  09:09 AM
                             [**2165-1-15**]  03:42 PM
                             [**2165-1-15**]  10:20 PM
                             [**2165-1-16**]  05:00 AM
   WBC
   25.5
   19.6
   Hct
   23.8
   23.4
   27.2
   29.9
   28.2
   25.7
   28.4
   Plt
   410
   318
   Cr
   0.3
   0.2
   0.2
   Glucose
   138
   82
   79
   Other labs: PT / PTT / INR:13.5/28.0/1.2, Fibrinogen:186 mg/dL,
   Ca++:7.5 mg/dL, Mg++:2.1 mg/dL, PO4:2.3 mg/dL
   Imaging: No imaging
   Microbiology: c diff neg x 2
   Sputum Cx: GS no orgs, Cx pending
   Assessment and Plan
   30 yo M with [**Name8 (MD) 3587**] MD originally admitted for fall with b/l femur
   fracture. Hospital course complicated by perioperative PNA and now
   UGIB.
    GIB:  BP remains stable, tachycardia improved.  Ulcers injected with
   epi on EGD yesterday.
     -Change PPI to IV BID
     -Hold NSAIDS, anticoagulants
     -Serial HCT checks and transfuse to keep above 27 given recent active
   bleeding
    Respiratory: Intubated for airway protection.  Extubated without
   complication.
    Leukocytosis:  Likely stress reaction to GIB.  Was started on flagyl
   empirically but d/c'd due to low suspicion and negative toxin.
     -F/u cultures
    FEN:  Hypernatremic/hyperchloremic today
     -Clears today
    Chronic pain:  Appreciate pain service assistance
     -Wean basal rate on PCA and transition to po meds per pain service
   recs
    Hip fractures:  Pain control as above, further plans per ortho.
    Access: PIV, single lumen PICC, and femoral TLC.
     -D/C femoral line today
    Rest of plan per resident note.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2165-1-14**] 03:26 PM
   20 Gauge - [**2165-1-14**] 03:27 PM
   Multi Lumen - [**2165-1-15**] 05:13 AM
   Arterial Line - [**2165-1-15**] 06:00 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor